US06444668B1
A mixture of 3-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)benzonitrile (0.77 g, 2.8 mmol), trimethylsilyl azide (0.68 g, 5.6 mmol), and dibutyl tin oxide (0.071 g, 0.28 mmol) in dioxane (20 mL) was heated at reflux under a blanket of nitrogen. Upon completion of the reaction, the dioxane was removed, the organics taken up in ethyl acetate (100 mL), and washed with NaHCO3 (100 mL). The aqueous layer was acidified with 1 N aqueous HCl and extracted with ethyl acetate (100 mL). The organic layer was dried over MgSO4, and concentrated. Crystallization from ether (20 mL) gave 4,4-dimethyl-6-[3-(1H-tetrazol-5-yl)-phenyl]-1,4-dihydrobenzo[d][1,3]-oxazin-2-one as a light yellow solid (0.23 g, 26%): mp 238-240° C.; 1H-NMR (DMSO-d6) δ10.4 (s, 1H), 8.3 (bs, 1H), 8.02 (d, 1H, J=7.66 Hz), 7.9 (d, 1H, J=7.91 Hz), 7.72-7.65 (m, 3H), 7.03 (d, 1H, J=8.75 Hz), 1.70 (s, 6H); MS (ESI) m/z 320 ([M−H]−, 100%); Anal. Calc. For C17H15N5O2: C, 63.54, H, 4.71, N, 21.79. Found: C, 62.16, H, 4.67, N, 21.31.

reactant | 3-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)benzonitrile | 2.8 mmol, 0.77 g | CC1(C2=C(NC(O1)=O)C=CC(=C2)C=2C=C(C#N)C=CC2)C | C17H14N2O2
reactant | trimethylsilyl azide | 5.6 mmol, 0.68 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | dibutyl tin oxide | 0.28 mmol, 0.071 g | C(CCC)[Sn](CCCC)=O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 4,4-dimethyl-6-[3-(1H-tetrazol-5-yl)-phenyl]-1,4-dihydrobenzo[d][1,3]-oxazin-2-one | 0.23 g, 26% | CC1(C2=C(NC(O1)=O)C=CC(=C2)C2=CC(=CC=C2)C2=NN=NN2)C | C17H15N5O2
